US09315495B2
The compound was synthesized as in Example 3.1 using 6-bromobenzothiophene-2-carbaldehyde (110 mg, 0.46 mmol) in place of 5-bromo-2-formylfuran and potassium butyltrifluoroborate (113 mg, 0.69 mmol) in place of hexylboronic acid to give 6-butylbenzothiophene-2-carbaldehyde (86 mg, 78%). Used without further characterization.

reactant | 6-bromobenzothiophene-2-carbaldehyde | 0.46 mmol, 110 mg | BrC1=CC2=C(C=C(S2)C=O)C=C1 | C9H5BrOS
reactant | potassium butyltrifluoroborate | 0.69 mmol, 113 mg | C(CCC)[B-](F)(F)F.[K+]
product | 6-butylbenzothiophene-2-carbaldehyde | 86 mg, 78% | C(CCC)C1=CC2=C(C=C(S2)C=O)C=C1 | C13H14OS
